US09388173B2
Step 3: 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone
A solution of 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetic acid (100 mg, 0.474 mmol), amine (15.4 mg, 0.496 mmol), HATU (79 mg, 0.59 mmol) and TEA (95.8 mg, 0.0.948 mmol) in DCM (10 mL) was stirred at room temperature for 2 h. Upon completion of the reaction, water was added to the mixture and extracted with DCM. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated, producing a the desired product which used directly in the next step without further purification (100 mg, Yield 80%). LCMS (m/z): 281.1 (M+1).

reactant | 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetic acid | 0.474 mmol, 100 mg | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)O | C8H6ClN3O2
reactant | HATU | 0.59 mmol, 79 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-morpholinoethanone | Yield 80% | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)N2CCOCC2 | C12H13ClN4O2
